Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Aphasia
 
Major Surgical or Invasive Procedure:
admission following port-a-cath placement ___
 
History of Present Illness:
___ is a ___ old man with a history of unresectable
metastatic prostate cancer who was found to be aphasic after
undergoing procedure for left subclavian port placement. 

Mr. ___ presented to ___ this morning for a planned port
placement. At 10 AM when his MAC anaesthesia was started his
speech was normal. The procedure was extended due to difficulty
placing the port, but there was no evidence of puncture of any
arterial structures. CXR afterwards confirmed the port position
in the correct spot. When waking up he was initially very sleepy
and didn't say much. However. around 2PM as he was getting his
discharge instructions with his daughter, he started to speak
more and his speech output was abnormal. He was saying correct
but inappropriate words. His nurse assessed his strength and he
was able to understand (with mimicing) and perform pronator 
drift
and grasp testing without deficits. However, he would answer
questions only with stock phrases and called his daughter by his
wife's name and so a code stroke was called at 1430. He was out
of the tPA window and there was no evidence of intervenable
lesion on CTA and so no intervention was performed. Since that
time he has spiked a fever to 101.3.

Unfortunately, Mr. ___ has progressive, unresectable prostate
adenocarcinoma with evidence of metastasis to the liver. It was
first diagnosed six weeks ago when he presented to an OSH on 
___
with epigastric pain, bloating and numbness.He has recently
undergone multiple procedures, including: ___ liver biopsy; 
___
ERCP with brushings, stent replacement, and celiac plexus
neurolysis. The planned course of treatment for him is unclear.

At home prior to this procedure, Mr. ___ daughter reports 
that
he is independent of all ADLs. He babysits her ___ old
daughter. He drives, cooks, dresses himself. He goes to the gym
frequently. He is out of work and has been looking for a job. 
Per
review of the chart, however, Mr. ___ also has problems with
chronic cancer pain as well as chronic lower back pain. There 
was
a planned MRI pelvis to evalute an abnormality in seminal
vesicle.
 
Neurologic review of systems could not be obtained.

General review of systems could not be obtained but per the 
chart
it is notable for chronic pain and nausea.
 
Past Medical History:
Past Medical History:
- Hyperlipidemia
- Bile duct brushings concerning for adenocarcinoma, likely 
cholangiocarcinoma

Past Surgical History:
- Lap CCY (___)
- Multiple orthopedic surgeries
 
Social History:
___
Family History:
No relevant family history. 
 
Physical Exam:
Vital Signs: T 97.4 BP 110/70 HR 82 RR 18
GENERAL: NAD
HEENT: Moist mucous membranes.
CV: RRR
Respitatory: CTA
ABD: Soft, nontender, no rebound or guarding  
EXT: WWP  
NEURO: Alert and oriented, no focal deficits.
SKIN: Warm and dry, without rashes  

 
Pertinent Results:
___ 05:18PM BLOOD WBC-15.4*# RBC-4.83 Hgb-14.4 Hct-42.1 
MCV-87 MCH-29.8 MCHC-34.2 RDW-12.6 RDWSD-39.8 Plt ___
___ 05:18PM BLOOD ___ PTT-31.0 ___
___ 05:18PM BLOOD Glucose-131* UreaN-9 Creat-1.1 Na-137 
K-3.9 Cl-101 HCO3-23 AnGap-17
___ 05:18PM BLOOD Calcium-9.0 Phos-2.6* Mg-1.7
___ 05:18PM BLOOD ALT-23 AST-21 AlkPhos-93 Amylase-198* 
TotBili-2.3*
___ 06:00AM BLOOD %HbA1c-5.9 eAG-123
___ 06:00AM BLOOD Triglyc-100 HDL-33 CHOL/HD-4.3 LDLcalc-89
___ 06:00AM BLOOD TSH-1.9
___ 06:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CTA head/neck ___:
IMPRESSION: 
1. No evidence of infarct or air embolism. 
CT perfusion demonstrate no evidence of a perfusion defect.  No 
abnormalities are seen on the mean transit time, blood flow or 
blood volume maps. 
CT angiography of the head and neck demonstrates normal 
appearance of the 
vascular extra structures except mild calcifications due to 
atherosclerotic disease.  No vascular occlusion or stenosis 
seen.  No evidence of an aneurysm greater than 3 mm in size. 

KUB ___:
IMPRESSION:
Metallic common bile duct stent. No supine evidence of 
intraperitoneal free gas. 

RUQ U/S ___:
IMPRESSION:  
Unchanged sonographic appearance of the liver, with pneumobilia 
consistent 
with CBD stenting.  No evidence of worsening biliary 
obstruction.  Known 
hepatic metastases were not specifically evaluated.  Stable 
pancreatic duct dilation in the setting of pancreatic head mass. 


CT abd/pelvis w/ contrast ___:
IMPRESSION:   
1. Patient is status post common bile duct placement with 
expected 
pneumobilia. Vague ill defined wedge shaped hypodensity within 
the posterior aspect of the right hepatic lobe adjacent to 
previously seen segment VI/VIII presumed metastatic focus may 
reflect metastatic involvement though a microabscess or focal 
cholangitis is difficult to exclude.   
2. Locule or air adjacent to the left hemidiaphragm is 
identified. It is 
unclear if this represents a small focus of pneumoperitoneum or 
alternatively located within a vessel. Given lack of substantial 
intraabdominal free air, this is felt likely to be of no 
clinical significance. 
3. Peripancreatic stranding is nonspecific for which correlation 
with labs 
should be considered. 
4. Bilateral small nonhemorrhagic layering pleural effusions are 
new relative to prior study. 
5. Pancreatic head mass is somewhat ill-defined though not 
significantly 
changed in size or appearance relative to prior study. Multiple 
prominent 
portacaval nodes our stable in appearance. 

Brain MRI ___:
1. No evidence for intracranial metastatic disease. 
2. No acute infarction. 

___ 05:45AM BLOOD WBC-8.4 RBC-4.18* Hgb-12.5* Hct-36.6* 
MCV-88 MCH-29.9 MCHC-34.2 RDW-12.6 RDWSD-40.1 Plt ___
___ 05:45AM BLOOD Glucose-113* UreaN-12 Creat-1.1 Na-140 
K-4.1 Cl-103
___ 05:22AM BLOOD ALT-25 AST-20 LD(LDH)-182 AlkPhos-84 
TotBili-1.1
___ 05:45AM BLOOD Phos-3.6 Mg-2.___ w/ new pancreatic cancer (mets to the liver) s/p celiac
plexus block a few days prior to admission was admitted ___
to the neurology service after transient aphasia following
portacath placement and was transferred to the oncology
service for persistent n/v/abd pain.

Nausea and vomiting: 
Etiology is most likely his pancreatic ca. No overt 
complications
of the celiac plexus block (gastroparesis is very rare 
post-block
per ERCP). Brain MRI neg for mets. Multiple agents tried 
including erythromycin, reglan, scopolamine, zofran, and ativan 
which did not seem to help. Was strated on olanzapine with good 
relief. PRN compazine was also continued. This will need to be 
monitored as an outpatient given potential interaction of the 
olanzapine and compazine but currently not taking compazine 
much.

Transient Aphasia: Pt has been evaluated by neurology and
etiology is unclear but he is now back to his baseline.
Differential for his temporary aphasia included TIA ___ air
embolism but unlikely, and potentially multifactorial delirium 
in
setting of recovering from anesthesia, postoperative 
pain/nausea.
Brain imaging reassuring. Will follow up with neurology as an 
outpatient. They did start him on aspirin. This to be followed 
up and determined whether it is appropriate to continue.

Metastatic Pancreatic cancer: mets to liver. He is s/p biliary 
stent for
stricture, cholecystectomy, celiac plexus. Palliative care was 
consulted and his oxycontine and PRN dilaudid were uptitrated 
with relief of his pain. He will follow up with his primary 
oncologist as an outpatient to further discuss treatment 
options.

Constipation: His colace, senna, and miralax were uptitrated. He 
was also started on PRN bisacodyl and fleet enemas with relief 
of his constipation.

GI: Patient was s/p ERCP ___ w/ replacement of metal CBD stent 
and CBD brushings (positive for malignant cells), also underwent 
celiac artery neurolysis. Also underwent port-a-cath placement 
___, subsequently had intractable nausea and vomiting. ERCP 
team was notified and consulted, and initially recommended 
imaging with RUQ US to evaluate placement of stent, which was 
stable, and then with CT abdomen/pelvis to rule out acute 
intraabdominal pathology. It showed no pneumoperitoneum, acute 
inflammation outside of nonspecific peripancreatic stranding, or 
abscess. His LFTs were within normal except for mild 
hyperbilirubinemia to 2.4 which improved to 1.8. Amylase 
slightly elevated but lipase was normal. He was treated 
symptomatically with iv zofran, then started on reglan per 
GI/ERCP recs, and ativan iv for breakthrough nausea. The patient 
did have a fever and was given cipro for post-ERCP infection 
propylaxis. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HYDROmorphone (Dilaudid) 4 mg PO Q6H 
2. Lorazepam 1 mg PO Q4H:PRN Anxiety, Nausea, Insomnia 
3. Omeprazole 40 mg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN Nausea 
5. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
6. Prochlorperazine 10 mg PO Q8H:PRN Nausea 
7. Scopolamine Patch 1 PTCH TD Q72H 
8. Docusate Sodium 100 mg PO TID:PRN Constipation 
9. Senna 17.2 mg PO QHS:PRN Constipation 

 
Discharge Medications:
1. Docusate Sodium 200 mg PO BID 
2. Omeprazole 40 mg PO DAILY 
3. Senna 17.2 mg PO BID constipation 
4. OLANZapine (Disintegrating Tablet) 5 mg PO Q12H 
RX *olanzapine 5 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*28 Tablet Refills:*0
5. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 packet by mouth Daily 
Disp #*14 Packet Refills:*0
6. Bisacodyl ___ID:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally twice a day Disp 
#*14 Suppository Refills:*0
7. Fleet Enema ___AILY:PRN Constipation 
RX *sodium phosphates [Fleet Enema] 19 gram-7 gram/118 mL 1 
enema(s) rectally Daily Disp #*7 Package Refills:*0
8. OxyCODONE SR (OxyconTIN) 50 mg PO Q12H 
RX *oxycodone [OxyContin] 40 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*28 Tablet Refills:*0
RX *oxycodone [OxyContin] 10 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*28 Tablet Refills:*0
9. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 4 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*80 Tablet Refills:*0
10. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*14 Tablet 
Refills:*0
11. TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*7 Tablet Refills:*0
12. Prochlorperazine 10 mg PO Q8H:PRN Nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: dysphasia
pancreatic cancer
nausea/vomitting
constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for speech issues after you had your portacath 
placed. Initially you were on the neurology service and it was 
unclear what may have caused that. It resolved quickly. You were 
then transferred to the oncology service to further manage your 
nausea and vomitting. You were given medications to help with 
your symptoms and your constipation.
 
Followup Instructions:
___